US07326791B2
N-[(1S)-4-amino-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 17 from (S)—N-[4-(tert-butoxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide and trifluoroacetic acid. Yield: 54%; Rf value: 0.21 (silica gel; dichloromethane/methanol=9:1); C24H28ClN5O2 (453.97); mass spectrum: (M+H)+=454/456 (chlorine isotope) and (M−H)-=452/454 (chlorine isotope).

reactant | (S)—N-[4-(tert-butoxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | C(C)(C)(C)OC(=O)NCCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C29H36ClN5O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | chlorine | ClCl | Cl2
solvent | dichloromethane methanol | ClCCl.CO
product | N-[(1S)-4-amino-1-(5-chloro-1H-benzimidazol-2-yl)butyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 54% | NCCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C24H28ClN5O2
